US04806539
1-Cyclopropyl-4-(2-nitrophenylsulphenyl)-piperazine
A mixture of 112 g (0.198 mol) of N-(2-nitrophenylsulphenyl)-bis[2-(4-toluenesulphonyloxy)-ethyl]amine, 16.7 g (0.29 mol) of cyclopropylamine and 82 g (0.6 mol) of powdered potassium carbonate in 3.3 l of isopropanol is heated under reflux for 6 hours. Thereafter, the mixture is concentrated in vacuo, the residue is taken up in 550 ml of methylene chloride and the mixture is washed with water, dried with sodium sulphate and concentrated. For purification, the crude product is filtered over 600 g of silica gel with methylene chloride as the mobile phase and the eluate is concentrated. Yield: 47 g of melting point 100°-102°.

reactant | N-(2-nitrophenylsulphenyl)-bis[2-(4-toluenesulphonyloxy)-ethyl]amine | 0.198 mol, 112 g | [N+](=O)([O-])C1=C(C=CC=C1)SN(CCOS(=O)(=O)C1=CC=C(C=C1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C24H26N2O8S3
reactant | cyclopropylamine | 0.29 mol, 16.7 g | C1(CC1)N | C3H7N
reactant | potassium carbonate | 0.6 mol, 82 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 3.3 l | C(C)(C)O | C3H8O
product | 1-Cyclopropyl-4-(2-nitrophenylsulphenyl)-piperazine | C1(CC1)N1CCN(CC1)SC1=C(C=CC=C1)[N+](=O)[O-] | C13H17N3O2S
